US04521607
N-(4-Methoxy-1-indanyl)glycine ethyl ester (3.0 g) is dissolved in 30 ml of dimethylacetamide, then 3.3 g of 3-acetylthio-2-methylpropionyl chloride is added dropwise with stirring at room temperature, and the mixture is stirred at room temperature for 2 hours. The reaction mixture is poured into 200 ml of water, and extracted with ethyl acetate. The extract is washed with 10 ml of 10% hydrochloric acid and with water and dried, and ethyl acetate is distilled off under reduced pressure. The residue is purified by subjecting to silica gel column chromatography eluted with acetone-benzene (1:20), to give 3.2 g of N-(3-acetylthio-2-methylpropionyl)-N-(4-methoxy-1-indanyl)glycine ethyl ester as a colorless oil.

reactant | N-(4-Methoxy-1-indanyl)glycine ethyl ester | 3.0 g | C(C)OC(CNC1CCC2=C(C=CC=C12)OC)=O | C14H19NO3
reactant | 3-acetylthio-2-methylpropionyl chloride | 3.3 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
reactant | water | 200 ml | O | H2O
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | N-(3-acetylthio-2-methylpropionyl)-N-(4-methoxy-1-indanyl)glycine ethyl ester | 3.2 g | C(C)OC(CN(C1CCC2=C(C=CC=C12)OC)C(C(CSC(C)=O)C)=O)=O | C20H27NO5S
